US07049310B2
a) 1,7-Dimethyl-1H-indole
According to the procedure of Preparation 13 (a), except substituting 7-methylindole for the 3-methylindole, the title compound (1.95 g, 90%) was obtained as a light-colored oil: MS (ES) mmole 146.2 (M+H)+.

reactant | 7-methylindole | CC=1C=CC=C2C=CNC12 | C9H9N
reactant | 3-methylindole | CC1=CNC2=CC=CC=C12 | C9H9N
product | 1,7-Dimethyl-1H-indole | 1.95 g, 90% | CN1C=CC2=CC=CC(=C12)C | C10H11N
